US07414055B2
6-(4-Methylphenyl)-5-phenylnicotinonitrile (3-3)
A mixture of 5-Chloro-2-(4-methylphenyl)-3-phenylpyridine (0.320 g, 1.144 mmol), zinc cyanide (0.081 g, 0.687 mmol), Pd2(dba)3 (0.063 g, 0.069 mmol), dppf (0.076 g, 0.137 mmol) and zinc (0.018 g, 0.275 mmol) in DMA (5 mL) was degassed (3×pump/N2) and heated to 150° C. for 20 hr. The reaction was then cooled to rt, concentrated, partitioned between EtOAc and water, and extracted 3× with EtOAc. The combined organics were dried (anhd. Na2SO4), filtered, and concentrated. Purfied by silica gel chromatography (0-20% EtOAc in Hexanes) to give the titled compound. 1H-NMR (500 MHz, CDCl3) δ 8.92 (d, 1H, J=2.0 Hz), 7.95 (d, 1H, J=2.2 Hz), 7.34-7.33 (m, 3H), 7.28-7.26 (1,2H), 7.20-7.18 (m, 2H), 7.07 (d, 2H, J=8.1 Hz), 2.33 (s, 3H) LRMS m/z (M+H) Calcd: 271.0, found: 271.0.

reactant | 5-Chloro-2-(4-methylphenyl)-3-phenylpyridine | 1.144 mmol, 0.320 g | ClC=1C=C(C(=NC1)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C18H14ClN
reactant | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
catalyst | zinc cyanide | 0.687 mmol, 0.081 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2(dba)3 | 0.069 mmol, 0.063 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.137 mmol, 0.076 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | zinc | 0.275 mmol, 0.018 g | [Zn] | Zn
product | 6-(4-Methylphenyl)-5-phenylnicotinonitrile | CC1=CC=C(C=C1)C1=NC=C(C#N)C=C1C1=CC=CC=C1 | C19H14N2
